US04868177
N1 -Hexanoyl-1,2,3,4-tetrahydro-1,9-acridinediamine
To a chilled solution of 1,2,3,4-tetrahydro-1,9-acridinediamine (4.96 g) and triethylamine (3.6 ml) in 100 ml of tetrahydrofuran was added hexanoylchloride (3.6 ml). This was stirred for five minutes, then quenched into adilute NaOH solution. The aqueous phase was extracted with ethyl acetate (3x) and dried (MgSO4). The organics were concentrated to a semi-solid which was triturated with ethyl ether to give 3.32 g of a pale yellow powder, m.p. 205°-211° C. (dec.). This was recrystallized from methanol/water to give 2.54 g of a pale yellow powder,m.p. 214°-217° (dec.).

reactant | 1,2,3,4-tetrahydro-1,9-acridinediamine | 4.96 g | C1(CCCC2=NC3=CC=CC=C3C(=C12)N)N | C13H15N3
reactant | triethylamine | 3.6 ml | C(C)N(CC)CC | C6H15N
reactant | hexanoylchloride | 3.6 ml | C(CCCCC)(=O)Cl | C6H11ClO
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | N1 -Hexanoyl-1,2,3,4-tetrahydro-1,9-acridinediamine | 3.32 g | C(CCCCC)(=O)NC1CCCC2=NC3=CC=CC=C3C(=C12)N | C19H25N3O
